US08871798B2
(E)-3-(5-Bromopyridin-2-yl)-propenal
818 mg of (triphenylphosphoranylidene)acetaldehyde and 500 mg of 5-bromopyridine-2-carbaldehyde are stirred at RT overnight. The volatile fractions are removed under reduced pressure, and the residue is purified by column chromatography (silica gel, MeOH:DCM=99:1).

reactant | (triphenylphosphoranylidene)acetaldehyde | 818 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC=O | C20H17OP
reactant | 5-bromopyridine-2-carbaldehyde | 500 mg | BrC=1C=CC(=NC1)C=O | C6H4BrNO
product | (E)-3-(5-Bromopyridin-2-yl)-propenal | BrC=1C=CC(=NC1)/C=C/C=O | C8H6BrNO
